US09340544B2
(2-Chloro-9-methyl-9H-purin-6-yl)-(4-trifluoromethyl-phenyl)-amine
Was prepared according to Example 3 from N-(4-trifluoromethyl-phenyl)-formamide and 2,6-dichloro-9-methyl-9H-purine.

reactant | N-(4-trifluoromethyl-phenyl)-formamide | FC(C1=CC=C(C=C1)NC=O)(F)F | C8H6F3NO
reactant | 2,6-dichloro-9-methyl-9H-purine | ClC1=NC(=C2N=CN(C2=N1)C)Cl | C6H4Cl2N4
product | (2-Chloro-9-methyl-9H-purin-6-yl)-(4-trifluoromethyl-phenyl)-amine | ClC1=NC(=C2N=CN(C2=N1)C)NC1=CC=C(C=C1)C(F)(F)F | C13H9ClF3N5
